US07074817B2
1-(4-Fluorobenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indole
The title compound was prepared from 5-bromo-1-(4-fluorobenzyl)-1H-indole and 4-(trifluoromethoxy)phenylboronic acid in substantially the same manner, as described in Step 2 of Example 25. The product was obtained as an oil. Mass spectrum (ESI, [M+H]+) m/z 386. 1HNMR (300 MHz, DMSO-d6): δ 7.84 (s, 1H), 7.76 (d, 2H, J=8.7 Hz), 7.56 (s, 1H), 7.55 (d, 1H, J=9.7 Hz), 7.41-7.39 (m, 3H), 7.23 (d, 2H, J=8.1 Hz), 7.16 (d, 2H, J=8.7 Hz), 6.55 (d, 1H, J=3.1 Hz), and 5.44 ppm (s, 2H).

reactant | 5-bromo-1-(4-fluorobenzyl)-1H-indole | BrC=1C=C2C=CN(C2=CC1)CC1=CC=C(C=C1)F | C15H11BrFN
reactant | 4-(trifluoromethoxy)phenylboronic acid | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
product | 1-(4-Fluorobenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indole | FC1=CC=C(CN2C=CC3=CC(=CC=C23)C2=CC=C(C=C2)OC(F)(F)F)C=C1 | C22H15F4NO
